US06207847B1
To a vial containing 0.03 grams of (R)-catalyst prepared as in Example 1 was added a solution of azidotrimethylsilane (0.34 g, 2.95 mmol) and cycloheptene oxide (0.28 g, 2.50 mmol) in a mixture of allyl bromide (4.0 mL) and chlorobenzene (4.0 ml). After 48 h the volatiles were removed at reduced pressure and the residue was purified by flash chromatography on 220-400 mesh silica with 98% hexane and 2% ether as eluant. The product (1R,2R)-1-bromo-2-trimethylsiloxycycloheptane (0.54 g, 82%) was isolated by distillation of the solvent at reduced pressure. Anal. for C10H21OSiBr. Calcd: C, 45.28; H, 7.98; Br. 30.12; found: C, 45.26; H, 8.12; Br 30.55. 1H NMR: d 0.17 (s, 9 H), 1.45-1.89 (m, 8 H), 2.03 (M, 1 H), 2.28 (m, 1 H), 4.01 (m, 1 H), 4.12 (m, 1 H). 13C NMR: d 0.33, 21.62, 24.26, 27.49, 33.78, 34.13, 62.41, 78.90. [a]D25=−28.2, c=1.24 g/100 mL chloroform. Chiral capillary gas chromatographic analysis at 120° C. on Cyclodex B stationary phase indicated that the enantiomeric excess of the product was 80%.

reactant | azidotrimethylsilane | 2.95 mmol, 0.34 g | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | cycloheptene oxide | 2.50 mmol, 0.28 g | C12C(CCCCC1)O2 | C7H12O
reactant | allyl bromide | 4.0 mL | C(C=C)Br | C3H5Br
solvent | chlorobenzene | 4.0 ml | ClC1=CC=CC=C1 | C6H5Cl
product | (1R,2R)-1-bromo-2-trimethylsiloxycycloheptane | 0.54 g, 82% | Br[C@H]1[C@@H](CCCCC1)O[Si](C)(C)C | C10H21BrOSi
